US04518597
6-[4-(1,2,4-Triazol-3-yl-mercapto)-butoxy]-4,4-dimethyl-4H-3,1-benzoxazin-2-one
Prepared analogously to Example 1 from 6-(4-chlorobutoxy)-4,4-dimethyl-4H-3,1-benzoxazin-2-one and 3-mercapto-1,2,4-triazole.

reactant | 6-(4-chlorobutoxy)-4,4-dimethyl-4H-3,1-benzoxazin-2-one | ClCCCCOC=1C=CC2=C(C(OC(N2)=O)(C)C)C1 | C14H18ClNO3
reactant | 3-mercapto-1,2,4-triazole | SC1=NNC=N1 | C2H3N3S
product | 6-[4-(1,2,4-Triazol-3-yl-mercapto)-butoxy]-4,4-dimethyl-4H-3,1-benzoxazin-2-one | N1N=C(N=C1)SCCCCOC=1C=CC2=C(C(OC(N2)=O)(C)C)C1 | C16H20N4O3S
